US04476056
(2E,4E,6E,8E)-3,7-dimethyl-9-[2,6-dichloro-3methyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-ol (0.6mmol) could be dissolved in 20 ml. of methylene chloride and added to a suspension of 1.1 g. of activated manganese dioxide in 40 ml. of methylene chloride with stirring. Ater the reaction is complete, the resulting mixture is filtered and the filtrate evaporated to give (2E,4E,6E,8E)-3,7-dimethyl-9-[2,6-dichloro-3-methyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-al, which is further purified by crystallization or chromatography using conventional procedures.

reactant | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,6-dichloro-3methyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-ol | 0.6mmol | C/C(/C=C/O)=C\C=C\C(=C\CC1=C(C(=C(C=C1Cl)OC(F)(F)F)C)Cl)\C | C19H19Cl2F3O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,6-dichloro-3-methyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-al | C\C(=C/C=O)\C=C\C=C(\C=C\C1=C(C(=C(C=C1Cl)OC(F)(F)F)C)Cl)/C | C19H17Cl2F3O2
